* =====================================================================
*  C26: JITTER through the CTLE+CDR chain -- the risk C25 left standing
*
*  C25-B established that the loop settles on PRBS7, but with 93.8 mV pp of
*  residual vctrl dither (2.8x the 0101 case). That only matters if it walks
*  the sampling instant out of the 0.350 UI the CTLE delivers at the worst
*  PVT corner (C22). vctrl dither is NOT phase error; this deck measures the
*  phase error directly.
*
*  Method: identical chain to e2e_c25b_prbs, but the recovered clock is
*  written out so the edge times can be compared against the ideal bit grid
*  (n * 1.665 ns) in jitter_parse.py.
*
*  MEMORY SAFETY (../../CLAUDE.md): `write` is given an EXPLICIT vector list.
*  The rule that OOM-crashed the VM is about a BARE `write foo.raw`, which
*  stores every node at every timepoint. One vector over 3 us at 20 ps is
*  150k points ~ 10 MB of ASCII. That is fine; a bare write here would be
*  gigabytes.
*
*  Also fixes the C25-C measurement flaw: frequency is averaged over 600
*  cycles, not 60. With ~90 mV of dither on a ~357 MHz/V VCO the
*  instantaneous frequency swings +/-16 MHz, so a 60-cycle window cannot
*  resolve a 2 MHz offset. 600 cycles averages 10x better.
* =====================================================================
.lib /home/ttuser/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include /home/ttuser/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice
.include e2e_blocks.inc
.include e2e_prbs3u.inc
.options method=gear reltol=0.001 abstol=1e-12

.param vcm=0.9
.param amp=0.2
.param rpad=500 cpad=5p

VDD Vdd 0 1.8
VSS Vss 0 0
Vb  vbias 0 0.9

Edinp dinp 0 vol='vcm + 0.5*amp*(v(dsrc)-0.5)'
Edinm dinm 0 vol='vcm - 0.5*amp*(v(dsrc)-0.5)'

Rpadp dinp cinp 'rpad'
Cpadp cinp 0    'cpad'
Rpadm dinm cinm 'rpad'
Cpadm cinm 0    'cpad'

x_ctle coutp coutm cinp cinm Vdd Vss vbias CTLE_tune
x_cdr  Vdd Vss coutp coutm vbias rclkp rclkm CDR_tune

.ic v(x_cdr.x20.nrc)=0
.op

.control
  save v(rclkp) v(x_cdr.net1)
  tran 20p 3000n

* --- settling, same windows as C25 so the runs are comparable ---
  meas tran vctrl_w3 AVG v(x_cdr.net1) FROM=2400n TO=2500n
  meas tran vctrl_w4 AVG v(x_cdr.net1) FROM=2800n TO=2900n
  meas tran vctrl_ripp PP v(x_cdr.net1) FROM=2800n TO=2900n

* --- frequency averaged over many cycles (the C25-C fix) ---
* NOTE: RISE=1800 does NOT exist. The clock only starts after the precharge
* releases at ~126 ns, so a 3 us run yields ~1799 rising edges, not the 1802
* UI of data. Derive the index from (t_end - t_release)/UI, not t_end/UI --
* the first version of this deck used 1800 and the measure simply failed.
  meas tran e1200 WHEN v(rclkp)=0.9 RISE=1200
  meas tran e1680 WHEN v(rclkp)=0.9 RISE=1680
  meas tran e1740 WHEN v(rclkp)=0.9 RISE=1740
  let f540_MHz = 540/(e1740-e1200)/1e6
  print f540_MHz
* the same span measured 60 cycles at a time, to show how much the short
* window was actually lying by
  let f60_MHz = 60/(e1740-e1680)/1e6
  print f60_MHz

* --- dump the recovered clock for edge extraction (explicit vector list) ---
  set filetype=ascii
  write c26_rclk.raw v(rclkp)
.endc
.end
